US07189851B2
D. Polymer-bound tert-butyl (3-oxopropanoyl)-1-pyrrolidinecarboxylate
ArgoGel-OH (45 g, 0.49 meq/g, 22 mmol) was suspended in toluene (400 mL) and tert-butyl (2S)-2-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)carbonyl]-1-pyrrolidinecarboxylate (60. g, 176 mmol) was added. The sealed reaction tube was heated at 80° C. for 23 h. The reaction mixture was allowed to cool to room temperature and filtered. The resin was washed (DMF then DCM then ether; 8× each) then dried at 40° C. overnight under high vacuum (63 g; 0.44 meq/g).

reactant | tert-butyl (2S)-2-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)carbonyl]-1-pyrrolidinecarboxylate | 176 mmol | CC1(OC(C(C(O1)=O)C(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)C | C16H23NO7
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (3-oxopropanoyl)-1-pyrrolidinecarboxylate | O=CCC(=O)C1N(CCC1)C(=O)OC(C)(C)C | C12H19NO4
